US08455479B2
To a solution of (2-nitro-benzylamino)-acetic acid methyl ester (760 mg, 3.39 mmol) in dry DCM (20 mL), was added di-tert-butyl dicarbonate (1.11 g, 5.08 mmol) and the reaction was stirred at r.t. overnight. After completion of the reaction as confirmed by TLC, solvent was removed in vacuo to afford the crude compound, which was purified by column chromatography (silica gel, 2:8 EtOAC:Pet Ether) to afford pure [tert-butoxycarbonyl-(2-nitro-benzyl)-amino]-acetic acid methyl ester (850 mg, 77%) as a viscous oil.

reactant | (2-nitro-benzylamino)-acetic acid methyl ester | 3.39 mmol, 760 mg | COC(CNCC1=C(C=CC=C1)[N+](=O)[O-])=O | C10H12N2O4
reactant | di-tert-butyl dicarbonate | 5.08 mmol, 1.11 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | [tert-butoxycarbonyl-(2-nitro-benzyl)-amino]-acetic acid methyl ester | 850 mg, 77% | COC(CN(CC1=C(C=CC=C1)[N+](=O)[O-])C(=O)OC(C)(C)C)=O | C15H20N2O6
